US06268387B1
3-(3,5-Dichloro-benzenesulfonylamino)-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure described for Example 116 using 3-amino-4-methoxy-N-phenyl-benzamide (0.7296 g, 3.00 mmol), 3,5-dichlorobenzenesulfonyl chloride (0.7327 g, 3.00 mmol), and 4-dimethylaminopyridine to obtain the product (1.01 g); m.p. 222-228° C.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 3.00 mmol, 0.7296 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | 3,5-dichlorobenzenesulfonyl chloride | 3.00 mmol, 0.7327 g | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-(3,5-Dichloro-benzenesulfonylamino)-4-methoxy-N-phenyl-benzamide | 1.01 g | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C20H16Cl2N2O4S
